US07576165B2
2-(3-(trimethoxysilyl)propylthio)pyrimidine was synthesized from 2-mercaptopyrimidine and iodopropyltrimethoxysilane in the similar method as described above. 1H NMR (CD3Cl): δ(ppm) 8.62 (2H, m, Pyr.-H), 7.11 (1H, m, Pyr.-H), 3.57 (9H, s, —CH3), 3.25 (2H, m, —CH2—), 1.88 (2H, m, —CH2—), 0.83 (2H, t, JH-H=8.25, —CH2—). Yield: 74%.

reactant | 2-mercaptopyrimidine | SC1=NC=CC=N1 | C4H4N2S
reactant | iodopropyltrimethoxysilane | ICCC[Si](OC)(OC)OC | C6H15IO3Si
product | 2-(3-(trimethoxysilyl)propylthio)pyrimidine | Yield: 74% | CO[Si](CCCSC1=NC=CC=N1)(OC)OC | C10H18N2O3SSi
